US04122265
A suspension of 15 g. of 5-chloro-3-phenylisoindole-1-carboxylic acid ethyl ester in 150 ml. of dimethylsulfoxide is treated under an atmosphere of argon at 15°-20° C. with 13.8 g. of finely ground dry potassium carbonate and 14 ml. of methyl iodide, the mixture is stirred intensively at room temperature for 1 hour and then poured on to 750 ml. of ice-water. After the addition of 35 g. of sodium chloride, the precipitated product is removed by filtration, washed with water and dissolved in methylene chloride. The organic phase is dried over sodium sulfate and evaporated. The residue crystallizes upon trituration with hexane. Recrystallization from ethanol yields 5-chloro-2-methyl-3-phenylisoindole-1-carboxylic acid ethyl ester in the form of almost colorless crystals having a melting point of 94°-96° C.

reactant | 5-chloro-3-phenylisoindole-1-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC(=C2C=C(C=CC12)Cl)C1=CC=CC=C1 | C17H14ClNO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | CI | CH3I
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 5-chloro-2-methyl-3-phenylisoindole-1-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=C2C=C(C=CC12)Cl)C1=CC=CC=C1)C | C18H16ClNO2
